Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
cetuximab
 
Attending: ___.
 
Chief Complaint:
1 month oral bleeding
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man with relapsed oropharyngeal
cancer s/p chemo, radiation, and hemiglossectomy with neck
dissection who presents a 1 month history of intermittent oral
bleeding from an unclear source. 

In speaking with the patient and his wife, there have been 4
episodes of bleeding over the last month, the source being
unclear. The first 3 were just mild oozing, though the one that
prompted this ED visit was more substantial, triggered by
straining to stool, and after coughing up a single clot and
bright red blood, the bleeding immediately stopped. He was sent
to the ED because recent imaging had a question of carotid
involvement and the thought was this may be a herald bleed.  

More bothersome to him than the bleeding however is his pain,
which has progressed significantly over the last month or so
since stopping erbituxan (severe infusion reaction). What was
once a localized tongue pain has now extended to his jaw, neck,
head, and arm. His outpatient pain regimen is being escalated
with little effect (fentanyl patch, liquid oxycodone,
acetaminophen, and ibuprofen with hot compresses). 

From a nutrition standpoint, he is on a strictly liquid diet
because he cannot move his tongue. He is eating very little but
is generally maintaining his weight. 

He is scheduled to be discussed in multi-disciplinary tumor 
board
next week for further treatment options. 

In the ED initial vitals were 98.6 60 ___ 99% RA. Labs
notable for Hgb of 11.7, CT scan of neck showed bilateral 
carotid
and vertebral arteries are patent without evidence of stenosis,
occlusion, or dissection. He was given fluids and his home
pain/nausea medications. He was seen by ENT who felt like he
could be discharged to home from a bleeding perspective. 

REVIEW OF SYSTEMS 
Full review negative except as stated in the HPI. 

 
Past Medical History:
-Squamous cell cancer of the right oropharynx
-Hypothyroidism 

 
Social History:
___
Family History:
Not obtained 
 
Physical Exam:
ADMISSION:
==========
Vitals: 98.2 129/73 68 20 97 RA 
Gen: Dysarthic man in no acute distress
HEENT: right tongue is firm and elevated 
Neck: Hard masslike painful area in right neck 
Chest: lungs clear to auscultation bilaterally 
CV: RRR, S1S2, no m/r/g
Abd: soft, NTND 
Ext: warm, no edema 

DISCHARGE:
==========
AF, AVSS
Alert, conversant, dysarthric. 
RRR, CTAB, Abd ND/NT, Legs without edema 
 
Pertinent Results:
ADMISSION LABS:
===============

___ 04:08PM   GLUCOSE-101* UREA N-16 CREAT-0.7 SODIUM-141 
POTASSIUM-4.6 CHLORIDE-105 TOTAL CO2-25 ANION GAP-11
___ 04:08PM   estGFR-Using this
___ 04:08PM   CALCIUM-8.7 PHOSPHATE-3.5 MAGNESIUM-1.9
___ 04:08PM   WBC-7.9 RBC-4.05* HGB-11.8* HCT-35.2* MCV-87 
MCH-29.1 MCHC-33.5 RDW-13.9 RDWSD-44.0
___ 04:08PM   NEUTS-75.0* LYMPHS-8.1* MONOS-8.8 EOS-6.9 
BASOS-0.9 IM ___ AbsNeut-5.92 AbsLymp-0.64* AbsMono-0.69 
AbsEos-0.54 AbsBaso-0.07
___ 04:08PM   PLT COUNT-255
___ 04:08PM   ___ PTT-26.9 ___

DISCHARGE LABS:
===============
___ 06:00AM BLOOD WBC-7.2 RBC-3.98* Hgb-11.4* Hct-34.8* 
MCV-87 MCH-28.6 MCHC-32.8 RDW-13.6 RDWSD-43.5 Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-96 UreaN-14 Creat-0.8 Na-137 
K-4.2 Cl-97 HCO3-29 AnGap-11
___ 06:00AM BLOOD Calcium-9.0 Phos-3.4 Mg-1.8

MICROBIOLOGY:
==============
None

RADIOLOGY:
===========
CTA Head/neck ___
  
No evidence of tumor invasion into or compromise of the cervical 
vasculature. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with relapsed oropharyngeal 
cancer who presents with bleeding from the mouth, increased 
pain, and poor nutritional intake. He had a CTA head/neck that 
ruled out any tumor invasion of blood vessels, and the bleeding 
stopped spontaneously. He was admitted for pain control; seen by 
palliative care team; and had his regimen adjusted as below 
before discharge. His nutritional intake is poor, but the 
patient declined inpatient placement of a PEG tube and preferred 
to have this arranged as an outpatient by his oncologist. 

#Pain control
Outpatient pain regimen not providing adequate control. 
Palliative care team consulted. Increased fentanyl patch to 
100mcg. Started gabapentin 300mg TID for neuropathic pain. 
Continued home magic mouthwash. Plan to see ___ care in 
clinic for follow up.

#Poor oral intake 
Has had very poor PO intake secondary to pain with swallowing. 
Seen by our inpatient nutrition team and found to be at risk for 
malnutrition. Given multivatimin with minerals, thiamine, Ensure 
supplements. G-tube/PEG tube has been discussed as outpatient, 
though patient was not amenable until now. Per patient 
preference, deferring G-tube/PEG placement to
outpatient setting.

#Oropharngeal cancer
Scheduled to be discussed next week in multi-disciplinary tumor 
board per patient. Outpatient oncologist and ENT made aware of 
admission via email. Scoped by ENT in the ED and CTA performed; 
no concern for vascular invasion by tumor. He will follow up 
with ENT at ___ in early ___ in clinic.

#Hypothyroidism 
Continued levothyroxine 100mcg daily 

#Bleeding from mouth 
Source unclear, likely provoked by valsalva, seen by ENT who 
felt
like patient could have been discharged to home from a bleeding
standpoint. Imaging not consistent with a bleed from a major
vessel and he is no longer actively bleeding. CBC remained 
stable throughout the admission.

-Contact: wife ___ 
-Code status: full code (confirmed)

TRANSITIONAL ISSUES:
====================
Medications changed:
- increased Fentanyl patch dose from 75 to 100
- increased PRN oxycodone dose from 10mg to 15mg Q4H

[] ENT to see him in clinic ___ for ongoing management of OP 
cancer
[] Patient instructed to make f/u appointment with his ___ 
___ oncologist, who can arrange PEG tube placement 
[] Patient instructed to make f/u appointment with ___ 
palliative care clinic
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fentanyl Patch 75 mcg/h TD Q72H 
2. OxycoDONE Liquid 10 mg PO Q4H:PRN BREAKTHROUGH PAIN 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Acetaminophen (Liquid) Dose is Unknown  PO Frequency is 
Unknown 
5. Ibuprofen Suspension Dose is Unknown  PO Frequency is Unknown 

6. Maalox/Diphenhydramine/Lidocaine ___ mL PO Q4H:PRN pain  

 
Discharge Medications:
1.  Docusate Sodium (Liquid) 100 mg PO BID 
RX *docusate sodium 50 mg/5 mL 100 mg by mouth twice a day 
Refills:*0 
2.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg/6 mL (6 mL) 300 solution(s) by mouth three 
times a day Disp #*2 Bottle Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg/5 mL 15 mg by mouth every four (4) hours Disp 
#*2 Bottle Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0 
6.  Thiamine 100 mg PO DAILY Duration: 5 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*4 Tablet Refills:*0 
7.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild  
8.  Fentanyl Patch 100 mcg/h TD Q72H 
RX *fentanyl 100 mcg/hour  Every 72 hours Disp #*5 Patch 
Refills:*0 
9.  Ibuprofen Suspension 600 mg PO Q6H:PRN Pain - Mild  
10.  Levothyroxine Sodium 100 mcg PO DAILY  
11.  Maalox/Diphenhydramine/Lidocaine ___ mL PO Q4H:PRN pain   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Squamous cell cancer of the right oropharynx

Secondary:
Malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted because of bleeding from your mouth and 
sever pain related to your cancer.  

What was done for me while I was in the hospital?  
- You had a CT scan of your neck which did not show any invasion 
of blood vessels by the cancer
- Your pain medications were adjusted to make you more 
comfortable before sending you home

What should I do when I leave the hospital?  
- Take all your medications as prescribed
- Make yourself appointments to see your oncologist at ___ 
___ and our palliative care team at the ___ (see below for 
contact information)
- Seek medical attention if you experience recurrent bleeding, 
worsening pain, or other symptoms that concern you. 

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___